US06727264B1
4-(3-CHLOROPROPOXY)-1,2-DIMETHYLBENZENE:
Prepared by Procedure U and Scheme AK using 3,4-dimethylphenol and 1-bromo-3-chloropropane.

reactant | 3,4-dimethylphenol | CC=1C=C(C=CC1C)O | C8H10O
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 4-(3-CHLOROPROPOXY)-1,2-DIMETHYLBENZENE | ClCCCOC1=CC(=C(C=C1)C)C | C11H15ClO
